US04578381
2 Grams of 2-amino-3-(6-hydroxy-2-quinolon-3-yl)propionic acid hydrochloride was suspended in 50 ml of 1-methyl-2-pyrrolidone, then 2.2 g of 3-(4-chlorobenzoyl)benzoxazoline-2-thione was added thereto and stirred at a room temperature for 3 days. The reaction mixture was poured in ice-water and the crystals precipitated were collected by filtration. The crystals were dissolved in 1N-sodium hydroxide aqueous solution, and acidified with 10%-hydrochloric acid, then the crystals precipitated were collected by filtration. The crystals were dried and washed with chloroform. Recrystallized from methanol-water to obtain 1.5 g of 2-(4-chlorobenzoylamino)-3-(6-hydroxy-2-quinolon-3-yl)propionic acid in the form of light yellowish powdery product.

reactant | 2-amino-3-(6-hydroxy-2-quinolon-3-yl)propionic acid hydrochloride | Cl.NC(C(=O)O)CC=1C(NC2=CC=C(C=C2C1)O)=O
reactant | 3-(4-chlorobenzoyl)benzoxazoline-2-thione | 2.2 g | ClC1=CC=C(C(=O)N2C(OC3=C2C=CC=C3)=S)C=C1 | C14H8ClNO2S
solvent | 1-methyl-2-pyrrolidone | 50 ml | CN1C(CCC1)=O | C5H9NO
product | 2-(4-chlorobenzoylamino)-3-(6-hydroxy-2-quinolon-3-yl)propionic acid | 1.5 g | ClC1=CC=C(C(=O)NC(C(=O)O)CC=2C(NC3=CC=C(C=C3C2)O)=O)C=C1 | C19H15ClN2O5
